US04670421
Sodium 4-[14-(trimethylsilyl)tetradecylamino]benzoate
To a stirred, hot solution of 4.5 g. 4-[14-(trimethylsilyl)tetradecylamino]benzoic acid in 150 ml. absolute ethanol was added 2.2 ml. 10N sodium hydroxide. The solution was cooled and the precipitate was filtered off and dried to yield a light yellow solid, m.p. 350°-355° C. dec.

reactant | 4-[14-(trimethylsilyl)tetradecylamino]benzoic acid | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1)(C)C | C24H43NO2Si
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | Sodium 4-[14-(trimethylsilyl)tetradecylamino]benzoate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)[O-])C=C1)(C)C.[Na+] | InChI=1S/C24H43NO2Si.Na/c1-28(2,3)21-15-13-11-9-7-5-4-6-8-10-12-14-20-25-23-18-16-22(17-19-23)24(26)27;/h16-19,25H,4-15,20-21H2,1-3H3,(H,26,27);/q;+1/p-1
